US07211601B2
(2S,4EZ)-N-[(1R,2R)-2-(hydroxymethyl)cyclohexyl]-1-[(2′-methoxy[1,1′-biphenyl]-4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-methoxy[1,1′-biphenyl]-4-carboxylic acid, and [(1R,2R)-2-aminocyclohexyl]methanol, the title compound was obtained in 68% purity by HPLC. MS(ESI+): m/z=480.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-methoxy[1,1′-biphenyl]-4-carboxylic acid | COC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O3
reactant | [(1R,2R)-2-aminocyclohexyl]methanol | N[C@H]1[C@@H](CCCC1)CO | C7H15NO
product | (2S,4EZ)-N-[(1R,2R)-2-(hydroxymethyl)cyclohexyl]-1-[(2′-methoxy[1,1′-biphenyl]-4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | OC[C@H]1[C@@H](CCCC1)NC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)OC | C27H33N3O5
